US07244722B2
1-[2-([1,1′-Biphenyl]-3-yloxy)ethyl]-3-(1-piperazinyl)-2(1H)-pyrazinone
TMAD (0.060 g, 0.35 mmol) was dissolved in THF (1 mL) and DMF (0.5 mL) and the resulting solution was added dropwise to a mixture of 2-[3-(4-tert-butoxycarbonyl-1-piperazinyl)-pyrazinyloxy]ethanol (0.100 g, 0.31 mmol), triphenylphosphine (0.092 g, 0.35 mmol) and 3-phenylphenol (0.170 g, 1.00 mmol) in THF (0.5 mL). The reaction mixture was stirred overnight at room temperature, concentrated, and put through a silica column using toluene/EtOAc (7:3) as eluent. Solvents were removed in vacuo and the resulting N-t-BOC derivative was treated with dichloromethane/TFA/H2O (50:45:5; 5 mL) for 15 min with stirring. The mixture was concentrated and the residue purified by chromatography on silica gel using EtOAc/HOAc/MeOH/H2O (20:3:3:2) as eluent. The product-containing fractions were concentrated, washed between dichloromethane/5% aqueous NaOH, and put through a silica column using dichloromethane/MeOH (8:2) as eluent to give 16 mg (16%) of the title compound. HRMS m/z calcd for C22H24N4O2 (M)+ 376.1899, found 376.1888.

reactant | TMAD | 0.35 mmol, 0.060 g | CN(C)C(=O)/N=N/C(=O)N(C)C | C6H12N4O2
reactant | 2-[3-(4-tert-butoxycarbonyl-1-piperazinyl)-pyrazinyloxy]ethanol | 0.31 mmol, 0.100 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CN1)OCCO | C15H24N4O4
reactant | triphenylphosphine | 0.35 mmol, 0.092 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-phenylphenol | 1.00 mmol, 0.170 g | C1(=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-[2-([1,1′-Biphenyl]-3-yloxy)ethyl]-3-(1-piperazinyl)-2(1H)-pyrazinone | 16 mg, 16% | C1(=CC(=CC=C1)OCCN1C(C(=NC=C1)N1CCNCC1)=O)C1=CC=CC=C1 | C22H24N4O2
